data/oMe_Silver.jsonl
{"reaction_id": "NR-126_1-c1ccc(OC)cc1","name": "Kornblum Oxidation","level": "medium","reactants_smiles": ["C(c1ccc(OC)cc1)Cl","C[S+]([O-])C"],"products_smiles": ["C(c1ccc(OC)cc1)=O"],"conditions": "CCN(CC)CC","mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(c1ccc(OC)cc1)O[S+](C)C","rationale": "The sulfoxide oxygen is nucleophilic due to its lone pairs and polarization; it attacks the electrophilic carbon bearing the good leaving group Cl, favored by the polar aprotic amine solvent that stabilizes the transition state."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(OC)cc1)O[S+](C)[CH2-]","rationale": "The basic environment provided by the tertiary amine abstracts the acidic α-proton adjacent to the positively charged sulfur, driven by stabilization of the resulting carbanion through the adjacent sulfonium group."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(c1ccc(OC)cc1)=O","rationale": "The carbanion collapses, expelling the neutral dimethyl sulfide leaving group; this elimination is favored by the stability of the carbonyl product and the volatility of the leaving group."}],"description": "In the Kornblum oxidation, dimethyl sulfoxide acts as a nucleophile toward an alkyl halide, forming an alkoxysulfonium intermediate. Under basic conditions, deprotonation facilitates elimination of a sulfenic species, yielding the carbonyl product via a mild, non-aqueous oxidation pathway."}
{"reaction_id": "NR-052_1-C(F)(F)F_2-CC_3-C","name": "Curtius Rearrangement","level": "medium","reactants_smiles": ["C(C(F)(F)F)(CC)(C)C(=O)N=[N+]=[N-]"],"products_smiles": ["C(C(F)(F)F)(CC)(C)N=C=O"],"conditions": "Heat","mechnism_text_description": "The Curtius rearrangement is the thermal decomposition of an acyl azide to form an isocyanate with the loss of nitrogen gas (N2). The reaction typically proceeds via a concerted mechanism where the alkyl or aryl group (R) attached to the carbonyl carbon migrates to the nitrogen atom simultaneously with the expulsion of dinitrogen. This migration results in the formation of an isocyanate.","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(C(F)(F)F)(CC)(C)N=C=O","step_weight": 0,"rationale": "Thermal energy promotes a concerted migration of R from carbon to nitrogen, facilitated by the excellent leaving ability of N₂ and stabilization of the developing positive charge on nitrogen, yielding the thermodynamically favored isocyanate."}],"description": "Upon heating, the acyl azide undergoes a concerted 1,2-shift where the R group migrates from the carbonyl carbon to the adjacent nitrogen. This rearrangement is driven by the release of stable N₂ gas and formation of the isocyanate."}
